US05624935
5-{4-(3-Methyl-5-phenyl-3H-imidazo[4,5-b]pyridin-2-ylmethoxy) benzyl}-3-triphenylmethylthiazolidine-2,4-dione
A procedure similar to that described in Preparation 4 was repeated, except that 0.5 g of 2-hydroxymethyl-3-methyl-5-phenylimidazo[5,4-b]pyridine (prepared as described in Preparation 110), 0.97 g of 5-(4-hydroxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione, 0.57 ml of tributylphosphine, 0.53 g of 1,1'-(azodicarbonyl)dipiperidine and 50 ml of benzene were used. After working up the product as described in Preparation 4, the resulting crude product was purified by column chromatography through silica gel, using a 1:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 0.9 g of the title compound having Rf=0.26 (on silica gel thin layer chromatography using a 1:1 by volume mixture of ethyl acetate and hexane as the developing solvent).

reactant | 2-hydroxymethyl-3-methyl-5-phenylimidazo[5,4-b]pyridine | 0.5 g | OCC=1N(C2=NC(=CC=C2N1)C1=CC=CC=C1)C | C14H13N3O
reactant | 5-(4-hydroxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione | 0.97 g | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | tributylphosphine | 0.57 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1'-(azodicarbonyl)dipiperidine | 0.53 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 5-{4-(3-Methyl-5-phenyl-3H-imidazo[4,5-b]pyridin-2-ylmethoxy) benzyl}-3-triphenylmethylthiazolidine-2,4-dione | 0.9 g | CN1C(=NC=2C1=NC(=CC2)C2=CC=CC=C2)COC2=CC=C(CC1C(N(C(S1)=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C=C2 | C43H34N4O3S
